US07018997B2
Step 1: Preparation of ethyl-5-[(4-oxotetrahydro-2H-pyran-3-yl)oxy]-1H-pyrazole-3-carboxylate:
To the stirred suspension of ethyl 5-hydroxy-1H-pyrazole-3-carboxylate (7.0 g, 45 mmol) and 24.9 g g of potassium carbonate in 500 ml of acetonitrile was added 8.0 g of 3-bromo-tetrahydro-pyran-4-one, and refluxed for 16 hours. The reaction mixture was allowed to cool to room temperature, then filtered, the solid was washed with acetonitrile. The filtrate was concentrated to an oil. The residue was dissolved in ethyl acetate and extracted with water. The organic phase was dried over MgSO4 and evaporated to dryness. 9.0 g (78%) of the desired product was obtained as a white solid. M.Pt. 121–123° C.; (M+H) 255.

reactant | ethyl 5-hydroxy-1H-pyrazole-3-carboxylate | 45 mmol, 7.0 g | OC1=CC(=NN1)C(=O)OCC | C6H8N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-tetrahydro-pyran-4-one | 8.0 g | BrC1COCCC1=O | C5H7BrO2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | ethyl-5-[(4-oxotetrahydro-2H-pyran-3-yl)oxy]-1H-pyrazole-3-carboxylate | 9.0 g, 78% | C(C)OC(=O)C1=NNC(=C1)OC1COCCC1=O | C11H14N2O5
